US08404719B2
N-(2-fluorophenyl)-3-[(8aS)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]benzenesulfonamide
To 3-(chlorosulfonyl)benzoyl chloride (0.521 g, 2.18 mmol) in anhydrous dichloromethane (10 mL) was added (S)-octahydropyrrolo[1,2-α]pyrazine (0.250 g, 1.98 mmol) in dichloromethane (4 mL) slowly over 10 minutes at room temperature. The mixture was stirred at room temperature for 5 hours. Then 2-fluoroaniline (1.54 g, 13.87 mmol) was added. The mixture was stirred at room temperature overnight and then concentrated. The residue was purified by chromatography on silica gel (dichloromethane, then methanol/dichloromethane=1:10) to give the titled compound.

reactant | 3-(chlorosulfonyl)benzoyl chloride | 2.18 mmol, 0.521 g | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
reactant | (S)-octahydropyrrolo[1,2-α]pyrazine | 1.98 mmol, 0.250 g | C1[C@H]2N(CCN1)CCC2 | C7H14N2
reactant | 2-fluoroaniline | 13.87 mmol, 1.54 g | FC1=C(N)C=CC=C1 | C6H6FN
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-(2-fluorophenyl)-3-[(8aS)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]benzenesulfonamide | FC1=C(C=CC=C1)NS(=O)(=O)C1=CC(=CC=C1)C(=O)N1C[C@H]2N(CC1)CCC2 | C20H22FN3O3S
